T1 (net12 net9 net9 0) nfet L=5.34E-6 W=1.21E-6
R2 (vdd! net8) R=8.6E6
T3 (net7 net2 net2 0) nfet L=6.07E-6 W=6.71E-6
T4 (net12 net18 net18 0) pfet L=1.44E-6 W=2.54E-6
C5 (net2 0) C=5.5E-9
R6 (net17 net7) R=7.1E2
C7 (net14 net7) C=9.2E-10
C8 (net15 net5) C=9.0E-12
T9 (net13 net6 net6 0) nfet L=2.71E-6 W=5.68E-6
C10 (net10 net7) C=0.9E-12
R11 (net12 net16) R=5.2E6
T12 (net2 0 0 0) pfet L=9.31E-6 W=6.98E-6
R13 (net5 net18) R=6.3E4
T14 (net4 net8 net8 0) nfet L=6.58E-6 W=3.32E-6
T15 (net2 net11 net11 0) pfet L=9.07E-6 W=4.88E-6
C16 (vdd! net2) C=1.7E-5
R17 (net4 net5) R=7.8E5
T18 (net7 net5 net5 0) pfet L=6.35E-6 W=9.80E-6
R19 (net3 net11) R=2.4E1
R20 (net15 net13) R=6.1E5
C21 (net8 net18) C=9.1E-14
C22 (vdd! net1) C=8.6E-6
T23 (net10 net1 net1 0) nfet L=8.97E-6 W=4.67E-6
T24 (net17 net14 net14 0) nfet L=4.26E-6 W=9.62E-6
T25 (net10 vdd! vdd! 0) nfet L=2.97E-6 W=7.04E-6
T26 (net9 net12 net12 0) pfet L=7.47E-6 W=1.50E-6
T27 (net2 net18 net18 0) nfet L=3.66E-6 W=5.84E-6
T28 (net8 net5 net5 0) nfet L=3.17E-6 W=5.27E-6
T29 (net6 net6 net6 0) nfet L=5.13E-6 W=7.72E-6
R30 (net2 net11) R=4.6E3
T31 (net13 net12 net12 0) nfet L=6.16E-6 W=9.82E-6
T32 (net6 net1 net1 0) nfet L=1.35E-6 W=7.12E-6
T33 (net16 net11 net11 0) nfet L=9.79E-6 W=5.60E-6
T34 (net2 0 0 0) pfet L=4.34E-6 W=3.52E-6
C35 (net5 net10) C=9.0E-9
C36 (net16 net11) C=5.8E-14
C37 (net10 net3) C=3.4E-12
R38 (net14 net3) R=5.2E3
T39 (net2 net17 net17 0) pfet L=4.25E-6 W=4.28E-6
T40 (net3 net9 net9 0) nfet L=4.22E-6 W=5.74E-6
C41 (net9 net18) C=8.7E-10
C42 (vdd! net18) C=10.0E-7
T43 (net10 net4 net4 0) nfet L=2.45E-6 W=2.68E-6
C44 (net15 net2) C=0.6E-13
C45 (vdd! net6) C=8.6E-14
C46 (net1 net16) C=8.0E-9
C47 (net16 net4) C=9.8E-8
R48 (net10 net16) R=2.5E1
R49 (net1 net2) R=7.8E3
R50 (net8 net15) R=8.1E6
R51 (net18 net7) R=3.1E4
T52 (0 net9 net9 0) nfet L=5.71E-6 W=5.82E-6
T53 (net6 net8 net8 0) pfet L=5.13E-6 W=1.71E-6
R54 (net7 net2) R=1.1E1
R55 (net8 net12) R=2.5E5
R56 (net17 net18) R=2.3E0
T57 (net18 net2 net2 0) pfet L=4.93E-6 W=3.57E-6
T58 (net17 net15 net15 0) pfet L=9.58E-6 W=8.97E-6
T59 (0 net14 net14 0) nfet L=7.59E-6 W=6.68E-6
R60 (net12 net8) R=4.0E1
T61 (net9 net4 net4 0) nfet L=6.41E-6 W=6.64E-6
R62 (vdd! net10) R=5.4E0
T63 (net6 net5 net5 0) nfet L=6.45E-6 W=0.85E-6
C64 (net8 net10) C=6.5E-9
T65 (net10 net1 net1 0) nfet L=7.59E-6 W=3.28E-6
T66 (net14 net2 net2 0) nfet L=2.77E-6 W=6.64E-6
C67 (net11 net13) C=8.6E-12
R68 (net15 net17) R=1.7E4
T69 (net9 net1 net1 0) nfet L=4.72E-6 W=9.84E-6
R70 (net10 net14) R=3.9E3
T71 (net8 net9 net9 0) nfet L=4.51E-6 W=3.41E-6
T72 (net5 net3 net3 0) nfet L=5.24E-6 W=9.09E-6
T73 (0 net7 net7 0) pfet L=8.61E-6 W=0.40E-6
R74 (net1 0) R=5.7E5
T75 (net1 net10 net10 0) nfet L=0.71E-6 W=3.19E-6
T76 (net7 net7 net7 0) pfet L=2.06E-6 W=6.65E-6
R77 (net18 net4) R=8.8E2
R78 (net12 net14) R=5.8E2
C79 (net6 vdd!) C=6.5E-11
T80 (net1 net18 net18 0) nfet L=1.84E-6 W=1.20E-6
T81 (net5 net16 net16 0) pfet L=7.09E-6 W=1.77E-6
T82 (net18 net9 net9 0) nfet L=7.71E-6 W=9.25E-6
R83 (net12 net8) R=4.2E5
C84 (net10 net5) C=9.5E-10
R85 (net2 net12) R=3.5E6
C86 (net11 net4) C=6.1E-8
C87 (net14 net13) C=4.3E-9
T88 (net8 vdd! vdd! 0) pfet L=1.23E-6 W=9.20E-6
R89 (net6 net11) R=2.3E6
C90 (net11 net13) C=7.8E-8
R91 (net11 net9) R=0.5E3
C92 (net18 net3) C=7.7E-7
C93 (net16 net7) C=7.1E-13
T94 (net6 net9 net9 0) pfet L=6.40E-6 W=2.02E-6
T95 (net16 net11 net11 0) nfet L=9.06E-6 W=6.00E-6
T96 (net17 net5 net5 0) pfet L=7.78E-6 W=2.56E-6
C97 (net7 net12) C=3.1E-7
R98 (net9 net12) R=1.6E6
R99 (net16 net6) R=4.7E4
T100 (0 net4 net4 0) nfet L=9.11E-6 W=7.41E-6
C101 (net8 net9) C=2.6E-13
T102 (net16 0 0 0) nfet L=5.60E-6 W=7.48E-6
C103 (net12 net14) C=4.8E-8
T104 (net3 net18 net18 0) nfet L=6.69E-6 W=0.60E-6
R105 (net14 net9) R=2.1E5
T106 (net2 net16 net16 0) nfet L=0.93E-6 W=6.30E-6
T107 (net4 net2 net2 0) nfet L=1.56E-6 W=8.94E-6
T108 (net5 net12 net12 0) pfet L=8.89E-6 W=7.09E-6
C109 (net12 net7) C=6.7E-5
T110 (net2 net6 net6 0) pfet L=2.33E-6 W=4.31E-6
T111 (net9 net13 net13 0) nfet L=0.33E-6 W=3.55E-6
T112 (net6 net16 net16 0) pfet L=8.30E-6 W=3.82E-6
T113 (net5 net4 net4 0) pfet L=4.45E-6 W=0.51E-6
R114 (net13 net3) R=2.2E1
T115 (net3 net13 net13 0) pfet L=5.14E-6 W=5.39E-6
T116 (net2 net8 net8 0) pfet L=0.44E-6 W=9.60E-6
R117 (net5 net2) R=8.7E1
C118 (0 net7) C=4.8E-14
T119 (net6 net5 net5 0) nfet L=7.97E-6 W=8.84E-6
R120 (net13 net8) R=2.4E1
R121 (net17 net10) R=1.6E3
T122 (net6 net14 net14 0) nfet L=0.28E-6 W=1.65E-6
C123 (net3 net5) C=3.0E-14
T124 (net11 net17 net17 0) nfet L=3.93E-6 W=5.92E-6
T125 (vdd! net5 net5 0) nfet L=3.99E-6 W=7.11E-6
T126 (net9 0 0 0) pfet L=8.52E-6 W=4.33E-6
R127 (net9 net16) R=3.1E5
T128 (net3 net5 net5 0) nfet L=8.39E-6 W=9.38E-6
T129 (net13 0 0 0) nfet L=2.24E-6 W=7.91E-6
T130 (net6 net11 net11 0) pfet L=7.61E-6 W=9.96E-6
T131 (net15 net9 net9 0) pfet L=8.58E-6 W=0.63E-6
T132 (net17 net13 net13 0) pfet L=6.28E-6 W=7.61E-6
C133 (net4 net14) C=8.2E-14
R134 (net3 net6) R=8.7E6
T135 (vdd! net8 net8 0) nfet L=9.16E-6 W=4.45E-6
T136 (net8 net12 net12 0) nfet L=3.89E-6 W=7.98E-6
T137 (net13 net16 net16 0) pfet L=6.32E-6 W=0.79E-6
T138 (net2 net6 net6 0) nfet L=1.18E-6 W=9.97E-6
T139 (net18 net11 net11 0) pfet L=2.23E-6 W=6.82E-6
T140 (net2 net6 net6 0) pfet L=1.21E-6 W=9.31E-6
C141 (net16 net12) C=0.3E-10
C142 (net9 vdd!) C=1.2E-10
T143 (net18 net14 net14 0) nfet L=9.06E-6 W=6.85E-6
T144 (net9 net17 net17 0) pfet L=3.03E-6 W=7.55E-6
T145 (vdd! net15 net15 0) pfet L=2.08E-6 W=4.26E-6
C146 (net2 net11) C=6.4E-8
R147 (net9 net1) R=2.3E2
T148 (net17 net4 net4 0) pfet L=1.15E-6 W=8.47E-6
C149 (net17 net14) C=3.1E-8
C150 (net16 net17) C=4.8E-8
T151 (net11 net12 net12 0) pfet L=8.28E-6 W=7.94E-6
T152 (net8 net2 net2 0) nfet L=4.16E-6 W=7.03E-6
T153 (net4 net18 net18 0) nfet L=2.10E-6 W=4.07E-6
T154 (net18 net7 net7 0) pfet L=3.83E-6 W=7.59E-6
T155 (net16 net17 net17 0) pfet L=3.70E-6 W=9.09E-6
T156 (net16 0 0 0) pfet L=1.96E-6 W=0.52E-6
R157 (net8 net12) R=0.7E4
T158 (net4 net13 net13 0) nfet L=6.14E-6 W=7.61E-6
C159 (net10 net1) C=7.9E-5
C160 (net15 net13) C=3.1E-12
T161 (net17 net9 net9 0) nfet L=7.26E-6 W=4.53E-6
R162 (net8 net12) R=6.7E4
T163 (net5 net4 net4 0) nfet L=1.74E-6 W=4.80E-6
C164 (net6 net3) C=6.1E-12
T165 (net13 net12 net12 0) nfet L=1.14E-6 W=0.20E-6
T166 (net2 net13 net13 0) pfet L=8.63E-6 W=8.99E-6
T167 (net15 net7 net7 0) nfet L=6.46E-6 W=0.68E-6
R168 (net5 net13) R=7.5E5
T169 (net2 net14 net14 0) nfet L=4.73E-6 W=2.42E-6
R170 (net1 vdd!) R=2.0E3
T171 (net6 net18 net18 0) nfet L=6.56E-6 W=3.12E-6
T172 (net4 vdd! vdd! 0) pfet L=3.96E-6 W=8.79E-6
T173 (0 net13 net13 0) pfet L=9.21E-6 W=7.47E-6
R174 (net6 net18) R=6.0E0
R175 (net4 net2) R=2.7E6
T176 (net16 net12 net12 0) nfet L=9.84E-6 W=3.44E-6
T177 (net10 net17 net17 0) nfet L=6.59E-6 W=8.64E-6
T178 (vdd! net17 net17 0) pfet L=8.71E-6 W=2.40E-6
R179 (net3 vdd!) R=5.2E5
R180 (net16 net11) R=5.5E4
C181 (net12 net8) C=7.9E-8
R182 (net14 net18) R=2.9E5
T183 (net13 net14 net14 0) nfet L=2.32E-6 W=5.24E-6

