T1 (net2 net17 net17 0) pfet L=8.58E-6 W=0.28E-6
C2 (vdd! net16) C=0.3E-14
R3 (net30 net20) R=2.3E2
T4 (net33 net12 net12 0) nfet L=9.05E-6 W=2.13E-6
T5 (net5 net4 net4 0) pfet L=6.22E-6 W=0.81E-6
C6 (net40 vdd!) C=6.3E-14
R7 (net1 net8) R=9.3E4
T8 (net25 net32 net32 0) pfet L=9.31E-6 W=5.40E-6
R9 (net1 net8) R=4.5E1
T10 (net5 net32 net32 0) nfet L=5.05E-6 W=3.73E-6
C11 (net37 net30) C=0.9E-7
T12 (vdd! net23 net23 0) pfet L=5.32E-6 W=9.07E-6
R13 (net40 net41) R=9.1E5
T14 (vdd! net2 net2 0) pfet L=7.94E-6 W=5.39E-6
R15 (net32 net37) R=1.9E6
R16 (net20 net23) R=8.0E4
R17 (net30 net35) R=5.6E2
R18 (0 net29) R=0.8E1
T19 (net28 net2 net2 0) pfet L=3.32E-6 W=8.54E-6
T20 (net31 0 0 0) nfet L=1.16E-6 W=0.71E-6
T21 (net42 net30 net30 0) nfet L=3.79E-6 W=2.24E-6
R22 (vdd! net39) R=0.6E3
T23 (net39 net19 net19 0) pfet L=2.65E-6 W=2.61E-6
T24 (net24 net41 net41 0) pfet L=4.99E-6 W=1.82E-6
R25 (net35 net36) R=2.6E3
T26 (net36 net38 net38 0) pfet L=5.36E-6 W=1.08E-6
T27 (net38 0 0 0) nfet L=7.90E-6 W=3.61E-6
T28 (net20 net36 net36 0) nfet L=0.88E-6 W=9.36E-6
T29 (net22 net20 net20 0) pfet L=5.61E-6 W=8.83E-6
C30 (net16 net33) C=0.9E-11
T31 (net16 net29 net29 0) nfet L=1.76E-6 W=9.08E-6
C32 (net17 net27) C=2.9E-6
T33 (net10 net18 net18 0) pfet L=6.37E-6 W=4.76E-6
R34 (net11 net23) R=3.7E4
T35 (net4 net10 net10 0) nfet L=6.96E-6 W=0.62E-6
C36 (net5 net42) C=4.4E-14
T37 (net21 vdd! vdd! 0) pfet L=6.34E-6 W=5.32E-6
R38 (net6 net17) R=8.7E2
T39 (net27 net1 net1 0) nfet L=4.22E-6 W=0.58E-6
T40 (net42 0 0 0) nfet L=1.61E-6 W=3.05E-6
T41 (net23 0 0 0) nfet L=4.29E-6 W=4.71E-6
R42 (net34 net8) R=7.0E0
C43 (net19 net27) C=8.1E-11
C44 (net41 net24) C=5.9E-9
T45 (net11 net34 net34 0) pfet L=8.16E-6 W=7.97E-6
T46 (net35 net4 net4 0) pfet L=4.62E-6 W=6.16E-6
C47 (net27 net10) C=9.6E-7
T48 (net22 net41 net41 0) nfet L=5.67E-6 W=0.75E-6
T49 (net16 net15 net15 0) pfet L=7.11E-6 W=4.77E-6
R50 (net27 net23) R=1.5E5
T51 (net4 net18 net18 0) pfet L=0.40E-6 W=4.50E-6
T52 (net1 net18 net18 0) nfet L=1.51E-6 W=4.69E-6
T53 (net28 net32 net32 0) nfet L=9.00E-6 W=9.58E-6
T54 (0 vdd! vdd! 0) nfet L=6.80E-6 W=7.78E-6
R55 (net42 net7) R=6.2E1
C56 (net10 net33) C=0.6E-14
T57 (net26 net16 net16 0) pfet L=1.36E-6 W=3.13E-6
R58 (net31 net20) R=6.2E4
C59 (net7 net39) C=7.5E-6
R60 (net17 net13) R=8.1E0
C61 (net32 net26) C=5.4E-12
R62 (net7 net40) R=2.5E6
T63 (net12 net5 net5 0) pfet L=9.73E-6 W=6.63E-6
T64 (0 net23 net23 0) pfet L=5.12E-6 W=6.02E-6
T65 (net35 net13 net13 0) pfet L=0.85E-6 W=0.32E-6
T66 (0 net7 net7 0) nfet L=1.51E-6 W=6.05E-6
R67 (net5 net18) R=1.0E2
T68 (net37 net42 net42 0) nfet L=0.33E-6 W=9.76E-6
C69 (net7 net3) C=6.7E-9
C70 (net18 0) C=5.0E-11
T71 (net39 0 0 0) pfet L=0.40E-6 W=5.91E-6
C72 (net34 net26) C=6.4E-13
C73 (0 net21) C=7.2E-11
C74 (net35 net1) C=4.0E-14
T75 (net3 net9 net9 0) pfet L=8.74E-6 W=3.62E-6
T76 (net31 net25 net25 0) nfet L=2.90E-6 W=0.42E-6
T77 (net23 net28 net28 0) nfet L=6.66E-6 W=1.16E-6
C78 (net3 net28) C=6.3E-12
R79 (net13 net34) R=8.0E5
R80 (net20 net6) R=1.5E3
T81 (net16 net28 net28 0) nfet L=4.33E-6 W=2.60E-6
T82 (net6 net34 net34 0) nfet L=9.54E-6 W=5.91E-6
C83 (net24 net23) C=9.5E-10
R84 (net24 net6) R=9.0E4
T85 (net41 net34 net34 0) nfet L=5.80E-6 W=3.29E-6
R86 (net2 vdd!) R=2.3E1
T87 (net22 net7 net7 0) pfet L=6.67E-6 W=3.00E-6
C88 (net38 net13) C=2.4E-11
R89 (net31 net28) R=7.4E4
T90 (net27 net11 net11 0) pfet L=1.47E-6 W=0.61E-6
T91 (net10 net8 net8 0) pfet L=5.17E-6 W=3.01E-6
T92 (net10 net1 net1 0) pfet L=8.66E-6 W=6.26E-6
R93 (net21 net13) R=9.7E6
T94 (net33 net25 net25 0) nfet L=0.58E-6 W=0.54E-6
T95 (0 net13 net13 0) nfet L=8.42E-6 W=0.34E-6
T96 (net26 net26 net26 0) pfet L=6.16E-6 W=7.52E-6
T97 (net38 net38 net38 0) nfet L=4.33E-6 W=5.83E-6
T98 (net31 net35 net35 0) nfet L=0.77E-6 W=9.07E-6
T99 (net36 net30 net30 0) nfet L=4.38E-6 W=9.27E-6
T100 (net11 vdd! vdd! 0) nfet L=8.48E-6 W=6.18E-6
C101 (net36 0) C=1.8E-14
T102 (net42 net22 net22 0) pfet L=6.39E-6 W=8.70E-6
T103 (net33 net21 net21 0) pfet L=7.05E-6 W=7.43E-6
T104 (net24 net3 net3 0) pfet L=2.22E-6 W=3.06E-6
C105 (net35 net8) C=6.2E-6
R106 (net10 net21) R=7.9E4
T107 (net30 net3 net3 0) nfet L=4.60E-6 W=1.63E-6
R108 (net8 net32) R=1.5E6
R109 (net30 net13) R=7.7E3
T110 (net25 net39 net39 0) pfet L=3.10E-6 W=8.02E-6
R111 (net3 net25) R=1.7E4
T112 (net18 net14 net14 0) nfet L=1.34E-6 W=9.75E-6
T113 (0 net10 net10 0) pfet L=0.49E-6 W=9.78E-6
R114 (net38 vdd!) R=6.0E4
T115 (net2 vdd! vdd! 0) pfet L=1.07E-6 W=2.97E-6
T116 (vdd! net18 net18 0) pfet L=0.93E-6 W=4.65E-6
C117 (net13 net4) C=1.8E-10
C118 (net33 net25) C=2.9E-13
T119 (net1 net39 net39 0) nfet L=9.36E-6 W=6.71E-6
R120 (net34 net16) R=5.9E4
R121 (net18 net9) R=10.0E2
C122 (net34 net41) C=7.8E-11
T123 (net12 net24 net24 0) pfet L=5.25E-6 W=6.38E-6
C124 (net22 net23) C=9.6E-14
R125 (net7 net16) R=10.0E0
T126 (net11 net27 net27 0) nfet L=2.57E-6 W=0.56E-6
T127 (net2 net22 net22 0) nfet L=0.43E-6 W=4.35E-6
T128 (net39 net38 net38 0) nfet L=2.24E-6 W=5.35E-6
T129 (net20 net33 net33 0) nfet L=5.79E-6 W=7.74E-6
T130 (net35 net39 net39 0) pfet L=3.19E-6 W=1.41E-6
T131 (0 net32 net32 0) nfet L=4.91E-6 W=4.97E-6
R132 (net16 net30) R=9.0E4
C133 (net23 vdd!) C=9.8E-5
T134 (net24 net41 net41 0) pfet L=9.56E-6 W=0.54E-6
T135 (net19 net1 net1 0) pfet L=0.68E-6 W=5.78E-6
R136 (net17 net15) R=4.9E1
C137 (net42 net34) C=3.1E-5
C138 (net32 net42) C=2.6E-8
R139 (net9 net34) R=8.4E6
C140 (net33 net12) C=0.7E-12
C141 (net18 net42) C=7.8E-10
R142 (net33 net37) R=6.2E3
T143 (net41 net39 net39 0) pfet L=7.39E-6 W=5.70E-6
C144 (net39 net31) C=9.7E-7
C145 (net30 net23) C=5.3E-5
R146 (net34 net21) R=6.5E1
R147 (net38 net32) R=4.6E1
C148 (net39 net16) C=7.9E-11
T149 (net28 net24 net24 0) pfet L=5.99E-6 W=5.38E-6
R150 (net41 net29) R=0.2E0
T151 (net42 net24 net24 0) pfet L=8.22E-6 W=4.07E-6
C152 (net7 net8) C=0.4E-5
T153 (0 net34 net34 0) pfet L=0.33E-6 W=4.86E-6
R154 (net16 net30) R=1.0E6
T155 (net12 net31 net31 0) pfet L=5.62E-6 W=4.30E-6
T156 (net18 net3 net3 0) nfet L=1.27E-6 W=7.90E-6
C157 (net31 net13) C=0.3E-8
T158 (net35 vdd! vdd! 0) pfet L=1.91E-6 W=2.44E-6
T159 (net27 net22 net22 0) pfet L=1.97E-6 W=6.15E-6
C160 (net25 net16) C=2.5E-6
R161 (net31 net7) R=2.4E0
R162 (net41 net35) R=2.0E0
C163 (net13 net6) C=8.3E-5
C164 (net15 net2) C=2.3E-8
T165 (net41 net11 net11 0) pfet L=2.08E-6 W=1.56E-6
C166 (net17 net8) C=6.4E-7
R167 (0 net41) R=8.8E3
T168 (net42 net5 net5 0) nfet L=7.01E-6 W=4.87E-6
C169 (net35 net13) C=7.1E-12
R170 (net32 net37) R=3.2E3
T171 (net35 net32 net32 0) pfet L=9.84E-6 W=3.24E-6
T172 (net33 net1 net1 0) pfet L=1.78E-6 W=3.88E-6
T173 (net1 vdd! vdd! 0) nfet L=1.35E-6 W=2.83E-6
T174 (net3 net21 net21 0) pfet L=6.59E-6 W=0.93E-6
R175 (net40 net12) R=6.1E3
T176 (net24 net41 net41 0) pfet L=5.66E-6 W=8.95E-6
T177 (net18 net20 net20 0) pfet L=4.99E-6 W=8.86E-6
C178 (net30 net20) C=6.2E-10
C179 (net40 net19) C=0.3E-11
T180 (net15 net13 net13 0) pfet L=4.99E-6 W=9.07E-6
T181 (net23 net10 net10 0) nfet L=1.10E-6 W=1.24E-6
T182 (net42 net15 net15 0) pfet L=6.78E-6 W=9.40E-6
T183 (net20 net13 net13 0) pfet L=4.73E-6 W=3.98E-6
T184 (net1 net1 net1 0) pfet L=6.18E-6 W=4.61E-6
R185 (net39 0) R=9.8E6
C186 (net33 net21) C=7.5E-10
C187 (net35 net24) C=4.5E-7
C188 (net2 net4) C=5.0E-11
T189 (net16 net29 net29 0) nfet L=9.88E-6 W=0.99E-6
T190 (net7 net23 net23 0) nfet L=3.59E-6 W=3.72E-6
T191 (net5 net21 net21 0) nfet L=8.62E-6 W=5.72E-6
T192 (net41 net30 net30 0) pfet L=5.69E-6 W=2.39E-6
T193 (net38 net20 net20 0) pfet L=3.24E-6 W=9.65E-6
T194 (net27 vdd! vdd! 0) nfet L=3.68E-6 W=5.17E-6
T195 (net4 net40 net40 0) nfet L=2.17E-6 W=1.65E-6
C196 (net3 net28) C=3.4E-8

