T1 (net52 net84 net84 0) nfet L=5.42E-6 W=9.32E-6
T2 (net71 net59 net59 0) nfet L=3.37E-6 W=3.60E-6
T3 (net103 0 0 0) nfet L=5.15E-6 W=9.53E-6
C4 (net51 net44) C=4.6E-7
T5 (net43 net11 net11 0) pfet L=5.78E-6 W=0.65E-6
T6 (vdd! net78 net78 0) nfet L=7.32E-6 W=7.44E-6
C7 (net91 net98) C=4.9E-13
T8 (0 net95 net95 0) nfet L=9.91E-6 W=2.90E-6
T9 (net31 net64 net64 0) pfet L=6.94E-6 W=2.34E-6
C10 (net51 net15) C=7.5E-14
R11 (net20 net48) R=5.7E4
C12 (net36 net25) C=3.8E-5
C13 (net36 net99) C=1.6E-8
R14 (net95 net101) R=9.0E0
T15 (net44 net37 net37 0) nfet L=4.32E-6 W=2.93E-6
T16 (net35 net37 net37 0) nfet L=6.59E-6 W=0.35E-6
C17 (net23 net38) C=8.3E-10
T18 (net98 net51 net51 0) pfet L=5.60E-6 W=9.41E-6
R19 (net14 net79) R=5.6E0
R20 (net1 net67) R=6.8E1
T21 (net77 net53 net53 0) nfet L=1.17E-6 W=8.77E-6
T22 (net4 net93 net93 0) pfet L=7.40E-6 W=6.60E-6
T23 (net5 net7 net7 0) pfet L=9.23E-6 W=2.32E-6
R24 (0 net68) R=5.3E5
T25 (net79 vdd! vdd! 0) pfet L=3.36E-6 W=8.71E-6
T26 (0 net17 net17 0) nfet L=0.79E-6 W=9.56E-6
T27 (net53 net56 net56 0) nfet L=9.94E-6 W=9.09E-6
T28 (net26 0 0 0) pfet L=3.03E-6 W=6.69E-6
C29 (net38 0) C=4.8E-5
T30 (vdd! net39 net39 0) nfet L=3.14E-6 W=4.68E-6
T31 (net39 net40 net40 0) nfet L=9.52E-6 W=2.09E-6
T32 (net38 net29 net29 0) pfet L=6.69E-6 W=6.02E-6
R33 (0 net104) R=8.0E2
C34 (net64 net15) C=3.2E-12
R35 (net85 net93) R=2.4E4
T36 (net79 net59 net59 0) pfet L=1.06E-6 W=8.55E-6
T37 (net44 net9 net9 0) nfet L=4.85E-6 W=3.85E-6
C38 (net20 net4) C=7.6E-7
R39 (net29 net73) R=1.3E0
T40 (net42 net4 net4 0) pfet L=7.57E-6 W=6.32E-6
C41 (net71 net75) C=8.2E-5
T42 (net73 net34 net34 0) pfet L=0.69E-6 W=6.98E-6
R43 (net14 net88) R=9.9E4
C44 (net101 net25) C=3.5E-5
T45 (net32 0 0 0) pfet L=7.41E-6 W=3.14E-6
R46 (0 net29) R=2.1E5
T47 (vdd! net52 net52 0) nfet L=4.34E-6 W=6.89E-6
C48 (0 net56) C=4.0E-6
T49 (net92 net30 net30 0) pfet L=6.02E-6 W=6.08E-6
R50 (net26 net66) R=8.7E2
T51 (net15 net66 net66 0) pfet L=6.61E-6 W=1.39E-6
T52 (net45 net92 net92 0) pfet L=3.97E-6 W=8.69E-6
C53 (net33 net96) C=2.9E-5
T54 (0 net69 net69 0) nfet L=6.63E-6 W=1.62E-6
T55 (net104 vdd! vdd! 0) pfet L=1.89E-6 W=0.87E-6
C56 (net102 net59) C=1.3E-5
T57 (net6 net6 net6 0) pfet L=5.51E-6 W=5.59E-6
R58 (net33 net95) R=1.4E6
C59 (net41 net20) C=5.3E-8
T60 (net76 net2 net2 0) pfet L=4.61E-6 W=0.35E-6
T61 (net100 net79 net79 0) nfet L=3.08E-6 W=4.76E-6
T62 (net44 net104 net104 0) nfet L=8.02E-6 W=1.42E-6
T63 (net68 net93 net93 0) pfet L=8.43E-6 W=0.80E-6
T64 (net46 0 0 0) pfet L=5.99E-6 W=2.26E-6
T65 (net103 net86 net86 0) nfet L=7.54E-6 W=9.49E-6
T66 (net54 vdd! vdd! 0) nfet L=9.60E-6 W=8.48E-6
T67 (net15 net104 net104 0) nfet L=7.57E-6 W=0.61E-6
R68 (net51 net44) R=4.4E0
T69 (net74 net19 net19 0) nfet L=8.84E-6 W=9.73E-6
R70 (net32 net80) R=0.4E2
T71 (net39 net47 net47 0) pfet L=2.73E-6 W=4.84E-6
C72 (net4 net73) C=6.4E-5
T73 (net66 net84 net84 0) nfet L=9.14E-6 W=8.01E-6
R74 (0 net26) R=0.8E0
R75 (net13 0) R=3.8E3
T76 (net71 net32 net32 0) nfet L=3.73E-6 W=7.77E-6
C77 (net15 net72) C=0.3E-8
T78 (net8 net83 net83 0) nfet L=2.45E-6 W=1.71E-6
R79 (net73 net79) R=8.7E3
T80 (net74 vdd! vdd! 0) nfet L=2.35E-6 W=9.83E-6
T81 (net88 net85 net85 0) pfet L=0.29E-6 W=0.24E-6
R82 (net48 net9) R=9.2E5
C83 (net95 net33) C=5.5E-11
C84 (net81 net64) C=3.2E-14
C85 (net1 net94) C=4.2E-10
C86 (net23 net70) C=3.1E-6
T87 (net16 0 0 0) pfet L=2.73E-6 W=7.11E-6
T88 (0 net63 net63 0) pfet L=7.77E-6 W=5.64E-6
T89 (net90 net7 net7 0) pfet L=0.48E-6 W=5.05E-6
T90 (net91 net15 net15 0) pfet L=5.86E-6 W=3.44E-6
T91 (net57 net61 net61 0) nfet L=7.85E-6 W=1.76E-6
T92 (net73 net87 net87 0) pfet L=3.74E-6 W=7.12E-6
R93 (net94 net21) R=7.6E5
T94 (vdd! net50 net50 0) nfet L=6.68E-6 W=4.38E-6
C95 (net10 net9) C=5.2E-10
C96 (net18 net68) C=3.1E-5
C97 (net92 net26) C=3.2E-7
C98 (net61 net55) C=2.8E-12
T99 (net18 net97 net97 0) nfet L=7.61E-6 W=3.49E-6
C100 (net39 net49) C=4.8E-7
T101 (net49 net28 net28 0) pfet L=1.02E-6 W=3.57E-6
C102 (net80 0) C=2.4E-7
T103 (net47 net81 net81 0) nfet L=9.02E-6 W=6.70E-6
R104 (net20 net45) R=4.6E3
T105 (net88 net2 net2 0) nfet L=4.32E-6 W=0.78E-6
C106 (net74 net75) C=4.2E-6
R107 (net102 net14) R=4.8E1
R108 (net97 net87) R=3.1E4
T109 (net5 0 0 0) nfet L=1.84E-6 W=4.59E-6
C110 (net5 net51) C=9.8E-14
R111 (net91 net3) R=4.2E6
T112 (net7 net35 net35 0) pfet L=5.52E-6 W=4.02E-6
C113 (net98 net73) C=6.5E-9
T114 (net96 net56 net56 0) pfet L=3.86E-6 W=8.59E-6
T115 (net79 vdd! vdd! 0) pfet L=1.32E-6 W=6.37E-6
T116 (0 net75 net75 0) nfet L=4.40E-6 W=4.99E-6
T117 (0 net94 net94 0) nfet L=6.16E-6 W=5.80E-6
R118 (net36 net82) R=7.9E2
R119 (net18 net78) R=4.4E3
T120 (net24 net61 net61 0) nfet L=8.99E-6 W=2.12E-6
T121 (net59 net96 net96 0) nfet L=6.69E-6 W=5.06E-6
C122 (net5 net12) C=0.9E-11
C123 (0 net53) C=6.5E-11
R124 (net53 net3) R=3.9E6
C125 (net15 net90) C=3.1E-9
T126 (vdd! net37 net37 0) pfet L=3.50E-6 W=4.79E-6
T127 (net94 net88 net88 0) pfet L=0.78E-6 W=1.44E-6
C128 (net41 net10) C=3.7E-6
T129 (net78 net81 net81 0) nfet L=9.50E-6 W=0.20E-6
C130 (net76 net22) C=7.6E-9
R131 (net39 net70) R=2.5E3
T132 (net75 net99 net99 0) pfet L=1.32E-6 W=5.19E-6
C133 (net30 net62) C=3.4E-11
R134 (net92 net73) R=6.9E6
C135 (net93 net35) C=1.9E-13
T136 (vdd! net83 net83 0) pfet L=7.51E-6 W=2.46E-6
C137 (net59 net64) C=8.4E-6
T138 (net100 net66 net66 0) nfet L=3.47E-6 W=2.91E-6
T139 (vdd! net76 net76 0) pfet L=1.53E-6 W=9.52E-6
T140 (net91 net86 net86 0) nfet L=9.06E-6 W=2.73E-6
R141 (net43 net32) R=1.2E5
C142 (net92 net8) C=7.5E-12
T143 (net59 net101 net101 0) nfet L=7.71E-6 W=5.49E-6
C144 (net36 0) C=5.0E-11
R145 (net84 net66) R=4.3E2
C146 (net79 net80) C=0.5E-13
T147 (net20 net62 net62 0) nfet L=7.41E-6 W=0.57E-6
R148 (net50 net40) R=6.6E6
R149 (net80 vdd!) R=3.2E4
R150 (net77 net6) R=8.3E4
T151 (net18 net22 net22 0) pfet L=6.59E-6 W=4.02E-6
C152 (net30 net73) C=1.8E-8
R153 (0 net61) R=2.8E4
T154 (net20 net78 net78 0) pfet L=4.24E-6 W=3.62E-6
T155 (net102 0 0 0) pfet L=4.28E-6 W=4.91E-6
T156 (net47 net91 net91 0) pfet L=0.93E-6 W=4.10E-6
C157 (net74 net53) C=0.6E-14
C158 (net102 net45) C=0.6E-5
C159 (net54 net23) C=8.6E-5
R160 (net13 net60) R=5.0E6
T161 (net62 vdd! vdd! 0) nfet L=4.81E-6 W=2.35E-6
T162 (net63 net51 net51 0) nfet L=8.14E-6 W=2.69E-6
T163 (net60 net28 net28 0) pfet L=8.29E-6 W=0.17E-6
C164 (net46 net10) C=1.1E-12
C165 (net60 net33) C=1.9E-6
T166 (net95 net85 net85 0) nfet L=5.32E-6 W=2.16E-6
C167 (net65 net29) C=9.6E-7
R168 (net52 vdd!) R=2.1E0
T169 (net69 vdd! vdd! 0) pfet L=8.78E-6 W=1.62E-6
T170 (net33 net84 net84 0) pfet L=9.06E-6 W=0.30E-6
C171 (0 net34) C=4.6E-8
T172 (net103 net68 net68 0) nfet L=7.73E-6 W=2.71E-6
T173 (0 net15 net15 0) pfet L=5.99E-6 W=9.30E-6
T174 (vdd! net79 net79 0) nfet L=0.29E-6 W=8.18E-6
C175 (net51 net6) C=1.6E-11
T176 (vdd! net96 net96 0) nfet L=2.92E-6 W=1.61E-6
C177 (net13 net64) C=1.9E-13
C178 (net20 net83) C=2.9E-9
R179 (net25 net77) R=0.4E3
C180 (net19 net80) C=6.4E-5

