C1 (net3 net4) C=4.6E-14
R2 (net3 net4) R=7.8E1
R3 (net4 net3) R=2.4E2
R4 (net2 net1) R=7.7E2
R5 (net1 net3) R=7.8E1
T6 (net2 net3 net3 0) nfet L=9.86E-6 W=0.14E-6
R7 (net1 net4) R=9.4E2
T8 (net4 net1 net1 0) nfet L=5.94E-6 W=1.00E-6
R9 (net5 net4) R=0.1E1
R10 (net3 net1) R=6.9E3
T11 (net2 net2 net2 0) pfet L=5.07E-6 W=5.25E-6
T12 (net2 0 0 0) nfet L=6.80E-6 W=4.14E-6
R13 (net5 vdd!) R=0.9E3
C14 (net2 vdd!) C=6.7E-13
T15 (net4 net3 net3 0) nfet L=8.20E-6 W=0.71E-6
C16 (net4 net3) C=7.0E-5
T17 (net5 net3 net3 0) pfet L=2.75E-6 W=6.93E-6
T18 (net5 net3 net3 0) pfet L=5.56E-6 W=4.28E-6
R19 (vdd! net5) R=9.2E2
C20 (net1 net4) C=0.8E-11
C21 (net1 net2) C=9.6E-10
R22 (net1 net3) R=5.2E2
T23 (net5 net3 net3 0) pfet L=0.47E-6 W=0.42E-6
R24 (net1 net5) R=0.5E4
C25 (0 net2) C=4.9E-12
R26 (0 net4) R=5.7E1
T27 (net3 net2 net2 0) nfet L=4.74E-6 W=2.23E-6
C28 (net4 net2) C=9.1E-6
R29 (net1 net5) R=0.6E6
R30 (0 net5) R=9.1E4
T31 (net5 net2 net2 0) nfet L=0.39E-6 W=5.31E-6
T32 (net3 net5 net5 0) nfet L=3.34E-6 W=3.06E-6
T33 (net1 net4 net4 0) nfet L=5.44E-6 W=9.61E-6
R34 (net2 vdd!) R=9.2E4
T35 (vdd! net2 net2 0) pfet L=7.78E-6 W=3.69E-6
R36 (net3 vdd!) R=8.9E3
T37 (net5 net1 net1 0) nfet L=5.08E-6 W=6.32E-6
R38 (net5 net2) R=6.6E4
R39 (net3 vdd!) R=9.7E0
R40 (net3 net4) R=2.2E1
C41 (net1 net3) C=1.5E-14
C42 (net5 net1) C=0.5E-5
C43 (net1 net3) C=3.8E-9
T44 (net1 net1 net1 0) nfet L=1.33E-6 W=5.91E-6
T45 (net1 0 0 0) pfet L=0.92E-6 W=7.67E-6
R46 (net4 0) R=5.5E5
T47 (net5 net1 net1 0) nfet L=2.33E-6 W=5.57E-6
T48 (net1 net5 net5 0) nfet L=2.12E-6 W=0.98E-6
R49 (net5 net3) R=9.1E2
R50 (net1 0) R=2.1E4
T51 (net4 net1 net1 0) pfet L=6.79E-6 W=4.12E-6
T52 (net1 net1 net1 0) pfet L=5.41E-6 W=6.77E-6
T53 (net5 net3 net3 0) pfet L=6.55E-6 W=0.89E-6
R54 (vdd! net5) R=0.2E5
R55 (net4 net1) R=8.4E2
T56 (vdd! net2 net2 0) pfet L=7.73E-6 W=1.83E-6

